US08754226B2
To a solution of tert-butyl 3-bromo-2-oxo-1,4′-bipiperidine-1′carboxylate (723 mg, 2.00 mmol) in DMF (5 mL) was added K2CO3 (553 mg, 4.00 mmol) and 4-bromo-2,5-difluorophenol (460 mg, 2.20 mmol). The reaction was heated at 60° C. overnight. The reaction was cooled and diluted with water and EtOAc. The organic layer was separated and the aqueous washed with EtOAc. The combined organic layers were dried with MgSO4 and concentrated. The crude residue was purified over silica gel (2:1 hexanes/EtOAc) to give tert-butyl 3-(4-bromo-2,5-difluorophenoxy)-2-oxo-1,4′-bipiperidine-1′-carboxylate (710 mg, 73%) as a white solid.

reactant | tert-butyl 3-bromo-2-oxo-1,4′-bipiperidine-1′carboxylate | 2.00 mmol, 723 mg | BrC1C(N(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C15H25BrN2O3
reactant | K2CO3 | 4.00 mmol, 553 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromo-2,5-difluorophenol | 2.20 mmol, 460 mg | BrC1=CC(=C(C=C1F)O)F | C6H3BrF2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 3-(4-bromo-2,5-difluorophenoxy)-2-oxo-1,4′-bipiperidine-1′-carboxylate | 710 mg, 73% | BrC1=CC(=C(OC2C(N(CCC2)C2CCN(CC2)C(=O)OC(C)(C)C)=O)C=C1F)F | C21H27BrF2N2O4
